US05089507
3-chloro-4,4-dimethyl-2-oxoperhydroazepine
3.8 g (0.018 moles) of 3,3-dichloro-4,4-dimethyl-2-oxoperhydroazepine were dissolved in 300 ml of glacial acetic acid and shaked at 40 psi of hydrogen with 1.9 g of 10% Pd/C. When the theoretical amount of hydrogen was consumed the catalyst was filtered off and the filtrate evaporated in vacuo to give 3 g of the title compound sufficiently pure for the following step.

reactant | 3,3-dichloro-4,4-dimethyl-2-oxoperhydroazepine | 0.018 moles, 3.8 g | ClC1(C(NCCCC1(C)C)=O)Cl | C8H13Cl2NO
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
catalyst | Pd/C | 1.9 g | [Pd] | Pd
product | 3-chloro-4,4-dimethyl-2-oxoperhydroazepine | 3 g | ClC1C(NCCCC1(C)C)=O | C8H14ClNO
